US09375000B2
3-(3,5-Dichloro-4-fluorophenyl)-3-(trifluoromethyl)pyrrolidine (0.9 g) and 4-fluoro-2-(tri-fluoromethyl)benzonitrile (0.62 g) were weighed, dissolved in N,N-dimethylacetamide (10 ml), added with N,N-diisopropylethylamine (1.0 ml) at room temperature and reacted for 1 hour using a microwave reactor (trade name: INITIATOR™, manufactured by Biotage). The reaction solution was diluted by adding t-butyl methyl ether, and the organic layer was washed three times with water and then saturated brine in that order. The organic layer was dried over magnesium sulfate, filtered and concentrated under reduced pressure and the residue obtained was purified by column chromatography to obtain 4-[3-(3,5-dichloro-4-fluorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]-2-(trifluoromethyl)benzonitrile (1.1 g).

reactant | 3-(3,5-Dichloro-4-fluorophenyl)-3-(trifluoromethyl)pyrrolidine | 0.9 g | ClC=1C=C(C=C(C1F)Cl)C1(CNCC1)C(F)(F)F | C11H9Cl2F4N
reactant | 4-fluoro-2-(tri-fluoromethyl)benzonitrile | 0.62 g | FC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H3F4N
reactant | N,N-diisopropylethylamine | 1.0 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | t-butyl methyl ether | COC(C)(C)C | C5H12O
solvent | N,N-dimethylacetamide | 10 ml | CN(C(C)=O)C | C4H9NO
product | 4-[3-(3,5-dichloro-4-fluorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]-2-(trifluoromethyl)benzonitrile | 1.1 g | ClC=1C=C(C=C(C1F)Cl)C1(CN(CC1)C1=CC(=C(C#N)C=C1)C(F)(F)F)C(F)(F)F | C19H11Cl2F7N2
